US07994314B2
A mixture of 2-amino-3-benzylpyridine (12.0 g, 65.2 mmol) and bromoacetaldehyde dimethyl acetal (19 g, 112.4 mmol, 1.7 eq.) in a 250 ml round-bottomed flask was treated at room temperature with concentrated sulphuric acid (50 ml) by quick addition. A vigorous exothermic reaction took place. After stirring for one hour the dark mixture was poured on ice (ca. 500 ml). Concentrated ammonia was added to basify the mixture. Extraction was done with ethyl acetate (100 ml) and dichloromethane (2×150 ml). The combined organic layers were dried with Na2SO4. Evaporation under vacuum gave 10-bromomethyl-10,11-dihydro-5H-benzo[e]pyrido[2,3-b]azepine as a brown powder (14 g, 48.6 mmol) in 75% yield. Mass analysis: M+1 289,291 (Br-isotope) major peak.

reactant | 2-amino-3-benzylpyridine | 65.2 mmol, 12.0 g | NC1=NC=CC=C1CC1=CC=CC=C1 | C12H12N2
reactant | bromoacetaldehyde dimethyl acetal | 112.4 mmol, 19 g, 1.7 eq. | COC(CBr)OC | C4H9BrO2
reactant | ammonia | N | H3N
solvent | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 10-bromomethyl-10,11-dihydro-5H-benzo[e]pyrido[2,3-b]azepine | 48.6 mmol, 14 g, 75% yield | BrCC1C2=C(CC3=C(N1)N=CC=C3)C=CC=C2 | C14H13BrN2
